US09085540B2
A mixture of 3,5-dichloro-6-ethylpyrazine-2-carboxamide (630 mg), 2-methyl-4-(morpholin-4-yl)aniline (500 mg), diisopropylethylamine (900 μL), and N-methylpyrrolidone (5 mL) was stirred at 110° C. overnight. The reactant was left to be cooled, and then water was added thereto, followed by extraction with ethyl acetate. The organic phase was dried over anhydrous sodium sulfate and then the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (eluent; hexane:ethyl acetate=8:2→5:5) to obtain 5-chloro-6-ethyl-3-{[2-methyl-4-(morpholin-4-yl)phenyl]amino}pyrazine-2-carboxamide (660 mg) as an orange solid.

reactant | 3,5-dichloro-6-ethylpyrazine-2-carboxamide | 630 mg | ClC=1C(=NC(=C(N1)Cl)CC)C(=O)N | C7H7Cl2N3O
reactant | 2-methyl-4-(morpholin-4-yl)aniline | 500 mg | CC1=C(N)C=CC(=C1)N1CCOCC1 | C11H16N2O
reactant | diisopropylethylamine | 900 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | N-methylpyrrolidone | 5 mL | CN1C(CCC1)=O | C5H9NO
solvent | water | O | H2O
product | 5-chloro-6-ethyl-3-{[2-methyl-4-(morpholin-4-yl)phenyl]amino}pyrazine-2-carboxamide | 660 mg | ClC=1N=C(C(=NC1CC)C(=O)N)NC1=C(C=C(C=C1)N1CCOCC1)C | C18H22ClN5O2
